* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT1762-2.5 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 4 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 12p Rser=250K
Q4 N003 N003 3 0 NP 10 temp=27
R2 3 4 12K
R3 N004 4 10K
C2 1 N003 15p
Q5 1 N007 N005 0 FB temp=27
R6 N005 3 106.8K
R5 5 4 20Meg
I1 5 4 1µ load
G2 8 N003 N008 4 1.2µ
G1 8 N002 N008 4 1.2µ
R1 8 N001 600K
R8 N009 1 .66
A2 N010 0 N002 N002 N002 N002 4 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 4 10p
C7 8 4 10p
C8 3 4 1p
G4 0 N010 8 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G5 N010 0 N008 4 table(0 2.1m 1 0)
C4 8 N002 .3p Rser=.8G
A1 5 4 4 4 4 4 N008 4 SCHMITT Vt=.8 Vh=1m trise=2m
R9 N007 4 244K
R10 2 N007 255K
C6 2 4 1p
C9 8 N003 100p Rser=.67G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1762-2.5
*
.subckt LT1762-3.3 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 4 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 12p Rser=250K
Q4 N003 N003 3 0 NP 10 temp=27
R2 3 4 12K
R3 N004 4 10K
C2 1 N003 15p
Q5 1 N007 N005 0 FB temp=27
R6 N005 3 106.8K
R5 5 4 20Meg
I1 5 4 1µ load
G2 8 N003 N008 4 1.2µ
G1 8 N002 N008 4 1.2µ
R1 8 N001 600K
R8 N009 1 .66
A2 N010 0 N002 N002 N002 N002 4 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 4 10p
C7 8 4 10p
C8 3 4 1p
G4 0 N010 8 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G5 N010 0 N008 4 table(0 2.1m 1 0)
C4 8 N002 .3p Rser=.8G
A1 5 4 4 4 4 4 N008 4 SCHMITT Vt=.8 Vh=1m trise=2m
R9 N007 4 244K
R10 2 N007 415K
C6 2 4 1p
C9 8 N003 100p Rser=.67G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1762-3.3
*
.subckt LT1762-3 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 4 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 12p Rser=250K
Q4 N003 N003 3 0 NP 10 temp=27
R2 3 4 12K
R3 N004 4 10K
C2 1 N003 15p
Q5 1 N007 N005 0 FB temp=27
R6 N005 3 106.8K
R5 5 4 20Meg
I1 5 4 1µ load
G2 8 N003 N008 4 1.2µ
G1 8 N002 N008 4 1.2µ
R1 8 N001 600K
R8 N009 1 .66
A2 N010 0 N002 N002 N002 N002 4 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 4 10p
C7 8 4 10p
C8 3 4 1p
G4 0 N010 8 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G5 N010 0 N008 4 table(0 2.1m 1 0)
C4 8 N002 .3p Rser=.8G
A1 5 4 4 4 4 4 N008 4 SCHMITT Vt=.8 Vh=1m trise=2m
R9 N007 4 244K
R10 2 N007 355K
C6 2 4 1p
C9 8 N003 100p Rser=.67G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1762-3
*
.subckt LT1762-5 1 2 3 4 5 6 7 8
Q1 N009 N001 8 0 PN
Q2 N001 N002 4 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 12p Rser=250K
Q4 N003 N003 3 0 NP 10 temp=27
R2 3 4 12K
R3 N004 4 10K
C2 1 N003 15p
Q5 1 N007 N005 0 FB temp=27
R6 N005 3 106.8K
R5 5 4 20Meg
I1 5 4 1µ load
G2 8 N003 N008 4 1.2µ
G1 8 N002 N008 4 1.2µ
R1 8 N001 600K
R8 N009 1 .66
A2 N010 0 N002 N002 N002 N002 4 N002 VARISTOR
D3 0 N010 F
G3 0 N010 1 N009 10m
Q7 N003 N001 N009 0 P 1m
D1 8 1 X
C5 1 4 10p
C7 8 4 10p
C8 3 4 1p
G4 0 N010 8 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G5 N010 0 N008 4 table(0 2.1m 1 0)
C4 8 N002 .3p Rser=.8G
A1 5 4 4 4 4 4 N008 4 SCHMITT Vt=.8 Vh=1m trise=2m
R9 N007 4 244K
R10 2 N007 753K
C6 2 4 1p
C9 8 N003 100p Rser=.67G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1762-5
*
.subckt LT1762 1 2 3 4 5 6 7 8
Q1 N008 N001 8 0 PN
Q2 N001 N002 4 0 NA
Q3 N002 N003 N004 0 NP temp=27
C1 N002 N003 12p Rser=250K
Q4 N003 N003 3 0 NP 10 temp=27
R2 3 4 12K
R3 N004 4 10K
C2 1 N003 15p
Q5 1 2 N005 0 FB temp=27
R6 N005 3 106.8K
R5 5 4 20Meg
I1 5 4 1µ load
G2 8 N003 N007 4 1.2µ
G1 8 N002 N007 4 1.2µ
R1 8 N001 600K
R8 N008 1 .66
A2 N009 0 N002 N002 N002 N002 4 N002 VARISTOR
D3 0 N009 F
G3 0 N009 1 N008 10m
Q7 N003 N001 N008 0 P 1m
D1 8 1 X
C5 1 4 10p
C7 8 4 10p
C8 3 4 1p
G4 0 N009 8 0 table(1.3 1m 2.4 2.1m 10 3.2m)
G5 N009 0 N007 4 table(0 2.1m 1 0)
C4 8 N002 .3p Rser=.8G
A1 5 4 4 4 4 4 N007 4 SCHMITT Vt=.8 Vh=1m trise=2m
C6 2 4 1p
C9 8 N003 100p Rser=.67G Rpar=6G
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.ends LT1762
